US04117130
Preparation of 3-methyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 4.50 g. of 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine, 2.58 g. of acethydrazide and 100 ml. of n-butanol is heated at reflux temperature for 3 days. The solvent is removed and the residue dissolved in methylene chloride, passed through magnesol and the solid from the filtrate recrystallized from methylene chloride/hexane to afford the product as tan crystals, m.p. 199°-201° C.

reactant | 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | acethydrazide | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C13H9F3N4
